US04374139
To a mixture of 1.5 g, (-)-1-(morphinan-3-yl)ethanone, 1.7 g of triethylamine and 15 ml of methylene chloride at ice-bath temperature was added a solution of 1.3 g of 2-furyl acetyl chloride in 10 ml of methylene chloride over a period of 1 hour. After the mixture had been refluxed for 4 hours, it was cooled to room temperature and the solvent was removed under reduced pressure. The residue was dissolved in 100 ml ether and the ether solution was washed with 1 N hydrochloric acid (2×15 ml) then with water and dried over magnesium sulfate. Removal of the solvent gave 1.9 g (90%) of crude (-)-3-acetyl-N-[(2-furylmethyl)carbonyl]morphinan. For analysis, a sample of this compound was distilled, bp 235°-245° (0.05 mm), [α]25D-160.43° (c 0.94, MeOH).

reactant | (-)-1-(morphinan-3-yl)ethanone | C1=CC(=CC=2[C@@]34CCCC[C@H]3[C@@H](CC12)NCC4)C(C)=O | C18H23NO
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-furyl acetyl chloride | 1.3 g | O1C(=CC=C1)CC(=O)Cl | C6H5ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (-)-3-acetyl-N-[(2-furylmethyl)carbonyl]morphinan | 1.9 g, 90% | C(C)(=O)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)CC=3OC=CC3 | C24H27NO3
